US07858640B2
[2-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid
A mixture of [2-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester (0.10 g), methanol (2.0 mL), tetrahydrofuran (2.0 mL), water (2.5 mL) and lithium hydroxide (0.017 mg) was stirred at room temperature for 1 hour. The mixture was acidified by the addition of 1.0 M aqueous hydrochloric acid and purified by preparative reverse-phase HPLC, using a gradient over 30 minutes of acetonitrile in water to afford title compound as a white solid, 0.070 g.

reactant | [2-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester | 0.10 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)OC(F)F)CC1=CC=C(C=C1)S(=O)(=O)CC)C)=O | C23H22F3NO6S
reactant | methanol | 2.0 mL | CO | CH4O
reactant | lithium hydroxide | 0.017 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | water | 2.5 mL | O | H2O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | [2-difluoromethoxy-3-(4-ethanesulfonylbenzyl)-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid | FC(OC1=NC2=C(C=CC(=C2C(=C1CC1=CC=C(C=C1)S(=O)(=O)CC)C)OCC(=O)O)F)F | C22H20F3NO6S
